US05962693
To a suspension of (R)-Methyl-3-[[[3-[4-[amino (hydroxyimino)methyl]phenyl]-4,5-dihydro-5-isoxazolyl] acetyl]amino]-N-(butoxycarbonyl)-L-alanine (1.05 g) in acetic acid (7 mL) was added acetic anhydride (0.35 g) dropwise. After the completion of addition, the reaction mixture was refluxed for 3 h. The solvent was distilled under vacuum and the solid was dried to give (R)-methyl-N-(butoxycarbonyl)-3-[[[4,5-dihydro-3-[4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl]-5-isoxazolyl]acetyl]amino]-L-alanine (1.05 g).

reactant | (R)-Methyl-3-[[[3-[4-[amino (hydroxyimino)methyl]phenyl]-4,5-dihydro-5-isoxazolyl] acetyl]amino]-N-(butoxycarbonyl)-L-alanine | 1.05 g | CN([C@H](CNC(CC1CC(=NO1)C1=CC=C(C=C1)C(=NO)N)=O)C(=O)O)C(=O)OCCCC | C21H29N5O7
reactant | acetic anhydride | 0.35 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
product | (R)-methyl-N-(butoxycarbonyl)-3-[[[4,5-dihydro-3-[4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl]-5-isoxazolyl]acetyl]amino]-L-alanine | 1.05 g | CN([C@H](CNC(CC1CC(=NO1)C1=CC=C(C=C1)C1=NOC(=N1)C)=O)C(=O)O)C(=O)OCCCC | C23H29N5O7
